US04316913
19.4 g (0.058 mol) of 2,2-dimethyl-3-(2-chloro-2-(4-trifluoromethoxy-phenyl)-vinyl)-cyclopropanecarboxylic acid were dissolved in 150 ml of carbon tetrachloride, and 15 g of thionyl chloride were slowly added dropwise at 25° C., while stirring. The mixture was then heated to the reflux temperature for 4 hours. After this reaction time, excess thionyl chloride and carbon tetrachloride were distilled off under a waterpump vacuum. Last residues of solvent were removed by brief incipient distillation under 2 mm Hg at a bath temperature of 60° C. 19.4 g (95% of theory) of 2,2-dimethyl-3-(2-chloro-2-(4-trifluoromethoxy-phenyl)-vinyl)-cyclopropanecarboxylic acid chloride were obtained as an oily liquid.

reactant | 2,2-dimethyl-3-(2-chloro-2-(4-trifluoromethoxy-phenyl)-vinyl)-cyclopropanecarboxylic acid | 0.058 mol, 19.4 g | CC1(C(C1C=C(C1=CC=C(C=C1)OC(F)(F)F)Cl)C(=O)O)C | C15H14ClF3O3
reactant | thionyl chloride | 15 g | S(=O)(Cl)Cl | Cl2OS
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,2-dimethyl-3-(2-chloro-2-(4-trifluoromethoxy-phenyl)-vinyl)-cyclopropanecarboxylic acid chloride | 19.4 g, 95% | CC1(C(C1C=C(C1=CC=C(C=C1)OC(F)(F)F)Cl)C(=O)Cl)C | C15H13Cl2F3O2
